US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[4-fluoro-2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[4-fluoro-2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 155°-156° C.

reactant | 2-[4-fluoro-2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=C(C=C1)F)OCC(C)C | C13H19FO5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[4-fluoro-2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=C(C=C1)F)OCC(C)C | InChI=1S/C24H31FN2O2.ClH/c1-17(2)16-29-23-13-19(25)9-10-22(23)28-12-11-27-24(3,4)14-18-15-26-21-8-6-5-7-20(18)21;/h5-10,13,15,17,26-27H,11-12,14,16H2,1-4H3;1H
